US04119710
1-(4'-Amino-3'-chloro-5'-fluoro-phenyl)-2-isopropylamino ethanol,
m.p. of the hydrochloride: 152°-154° C. (decomp.), was prepared from 1-(4'-amino-3'-fluoro-phenyl)-2-isopropylamino-ethanol hydrochloride and chlorine analogous to Example 98.

reactant | hydrochloride | Cl | ClH
reactant | 1-(4'-amino-3'-fluoro-phenyl)-2-isopropylamino-ethanol hydrochloride | Cl.NC1=C(C=C(C=C1)C(CNC(C)C)O)F
reactant | chlorine | ClCl | Cl2
product | 1-(4'-Amino-3'-chloro-5'-fluoro-phenyl)-2-isopropylamino ethanol | NC1=C(C=C(C=C1F)C(CNC(C)C)O)Cl | C11H16ClFN2O
